US06025350
2-(2-Methoxyphenyl)4-methoxypiperidine
To a solution of N-(tert-butoxycarbonyl)-2-(2-methoxyphenyl)-4-methoxypiperidine (864 mg, 2.67 mmol) in CH2Cl2 at 0° C. was added TFA (9.6 mL) and the resulting solution was stirred at 0-40° C. for 2 hours. TFA was removed in vacuo, and the residue was stirred with 40 mL of 1:1 mixture of CH2Cl2 and 1N NaOH for 20 minutes. The layers were separated and the aqueous layer was extracted with CH2Cl2 (3×15 ml). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to afford the title compound as a light brown oil (565 mg). 1H NMR (CDCl3, 400 MHz) δ: 3.82 (3H, s, OMe), 3.37 (3H, s, OMe).

reactant | N-(tert-butoxycarbonyl)-2-(2-methoxyphenyl)-4-methoxypiperidine | 2.67 mmol, 864 mg | C(C)(C)(C)OC(=O)N1C(CC(CC1)OC)C1=C(C=CC=C1)OC | C18H27NO4
reactant | TFA | 9.6 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-(2-Methoxyphenyl)4-methoxypiperidine | 565 mg | COC1=C(C=CC=C1)C1NCCC(C1)OC | C13H19NO2
